US04997943
21.8 g (0.1 mole) of di-t-butyl dicarbonate were added in portions to a solution of 6.91 g (0.1 mole) of 3-pyrroline in 100 ml of methylene chloride, whilst water-cooling, and then the reaction mixture was stirred at room temperature for 7 hours. At the end of this time, the solvent was removed by evaporation under reduced pressure to afford 17.0 g of 1-t-butoxycarbonyl-3-pyrroline as a faintly yellow oily substance.

reactant | di-t-butyl dicarbonate | 0.1 mole, 21.8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-pyrroline | 0.1 mole, 6.91 g | N1CC=CC1 | C4H7N
reactant | water | O | H2O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-t-butoxycarbonyl-3-pyrroline | 17.0 g | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
